US04556677
2-cyclopentyl-1-(p-allyloxyphenyl)-1-phenyl-1-butene
2.92 g (10 mmol) of pure E- or Z-isomer of 2-cyclopentyl-1-(p-hydroxyphenyl)-1-phenyl-1-butene in dry DME was added under nitrogen atmosphere to a stirred suspension of sodium hydride in DME (0.6 g of 50-60% dispersion from which the oil had been removed by washing with dry DME). After stirring for 30 minutes at room temperature, 1.44 g (12 mmol) of allyl bromide was added. The mixture was refluxed for 3 hours. Ice water was added. The water layer was extracted with ether and the combined organic layers washed with diluted sodium hydroxide and water and dried. After evaporation of the solvent the residue was 3.1 g. In the case of the E-isomer the semisolid product was purified by chromatography over silica gel using methylene chloride as eluent. The Z-isomer was purified by recrystallization from methanol, mp. 82°-84° C.

reactant | 2-cyclopentyl-1-(p-hydroxyphenyl)-1-phenyl-1-butene | C1(CCCC1)C(=C(C1=CC=CC=C1)C1=CC=C(C=C1)O)CC | C21H24O
reactant | sodium hydride | [H-].[Na+]
reactant | allyl bromide | 12 mmol, 1.44 g | C(C=C)Br | C3H5Br
solvent | DME | COCCOC | C4H10O2
product | 2-cyclopentyl-1-(p-allyloxyphenyl)-1-phenyl-1-butene | C1(CCCC1)C(=C(C1=CC=CC=C1)C1=CC=C(C=C1)OCC=C)CC | C24H28O
